US07645753B2
Ethoxy-4-trifluoromethyl-benzonitrile
To a solution of 2-amino-5-ethoxy-4-trifluoromethyl-benzonitrile (31.62 g, 137.4 mmol, 1.0 equiv) in anhydrous THF (410 mL) was added isoamyl nitrite (40.4 mL, 302 mmol, 2.2 equiv) and the mixture was heated to reflux for 16 h. The solvent was removed by evaporation under reduced pressure to give an orange oil which was dissolved in a sat. solution of NaHCO3 and extracted three times with diethyl ether. The combined organic phases were washed with 1 N HCl and a sat. solution of sodium chloride and the organic phases dried over Na2SO4. Removal of the solvent by evaporation under reduced pressure left an orange oil which was purified by double Kugelrohr distillation (up to 160° C. bath temperature at 1.5 mbar) yielding 25.1 g (85%) of the title compound as a light yellow solid upon solidification. MS (EI): 185.1 [M]+.

reactant | 2-amino-5-ethoxy-4-trifluoromethyl-benzonitrile | 137.4 mmol, 31.62 g, 1.0 equiv | NC1=C(C#N)C=C(C(=C1)C(F)(F)F)OCC | C10H9F3N2O
reactant | isoamyl nitrite | 302 mmol, 40.4 mL, 2.2 equiv | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 410 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Ethoxy-4-trifluoromethyl-benzonitrile | 25.1 g, 85% | C(C)OC1=C(C#N)C=CC(=C1)C(F)(F)F | C10H8F3NO
